US06960575B2
(2RS,3S)-2-Acetoxy-3-{(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-4-phenylbutanenitrile (Compound No. 18-1)
Pyridine (0.15 ml) is added to a solution of (2RS,3S)-3-{(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-2-hydroxy-4-phenylbutanenitrile (291 mg, Compound No. 8-1) in methylene chloride (3 ml). The mixture is cooled with ice, acetic anhydride (115 μl) and dimethylaminopyridine (catalytic amount) are added to the mixture, and the whole is stirred for six hours. Ethyl acetate is added to the reaction mixture and the whole is washed with 1 N hydrochloric acid and saturated brine successively. The organic layer is concentrated under reduced pressure, and the resulting residue is purified by silica gel column chromatography to give the titled compound (317 mg).

reactant | Pyridine | 0.15 ml | N1=CC=CC=C1 | C5H5N
reactant | (2RS,3S)-3-{(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-2-hydroxy-4-phenylbutanenitrile | 291 mg | C(C)(=O)N1C(C(N(C(=C1)C1=CC=CC=C1)CC(=O)N[C@H](C(C#N)O)CC1=CC=CC=C1)=O)C(C)C | C27H30N4O4
reactant | acetic anhydride | 115 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2RS,3S)-2-Acetoxy-3-{(3RS)-4-acetyl-3-isopropyl-2-oxo-6-phenyl-1,2,3,4-tetrahydropyrazin-1-yl}methylcarbonylamino-4-phenylbutanenitrile | 317 mg | C(C)(=O)OC(C#N)[C@H](CC1=CC=CC=C1)NC(=O)CN1C(C(N(C=C1C1=CC=CC=C1)C(C)=O)C(C)C)=O | C29H32N4O5
